US08431575B2
To a stirred solution of (±)-cis-4-azidomethyl-3-fluoro-piperidine-1-carboxylic acid tert-butyl ester (0.68 mmol, 160 mg) in methanol (1.5 mL) was added Pd—C (20% by wt., 35 mg). The reaction was hydrogenated under balloon pressure for 2 h at room temperature. The reaction was filtered through a bed of celite. The solvent was evaporated to provide (±)-cis-4-aminomethyl-3-fluoro-piperidine-1-carboxylic acid tert-butyl ester.

reactant | (±)-cis-4-azidomethyl-3-fluoro-piperidine-1-carboxylic acid tert-butyl ester | 0.68 mmol, 160 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)CN=[N+]=[N-])F | C11H19FN4O2
solvent | methanol | 1.5 mL | CO | CH4O
catalyst | Pd—C | 35 mg | [Pd] | Pd
product | (±)-cis-4-aminomethyl-3-fluoro-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)CN)F | C11H21FN2O2
